US04677100
(A) Benzhydryl 7-[(Z)-2-(benzhydryloxycarbonylmethoxyimino)-2-(2-tritylaminothiazol-4-yl)acetamido]-3-chloromethyl-3-cephem-4-carboxylate 1-oxide
23.4 g (22.3 mmol) of Benzhydryl-7-[(Z)-2-(benzhydryloxycarbonylmethoxyimino)-2-(2-tritylaminothiazol-4-yl)acetamido]-3-chloromethyl-3-cephem-4-carboxylate was dissolved in 500 ml of methylene chloride, and 4.8 g (22.3 mmol) of m-chloroperbenzoic acid was added under cooling with ice in 10 minutes. The mixture was further stirred for 20 minutes. To the reaction solution, 150 ml of a 10 % sodium thiosulfate aqueous solution was added for extraction. The organic layer was washed with a 5% sodium hydrogen carbonate aqueous solution, dried over anhydrous sodium sulfate and concentrated under reduced pressure to obtain a powder of the above-identified compound. The compound thus obtained was employed for the next reaction without purification

reactant | Benzhydryl-7-[(Z)-2-(benzhydryloxycarbonylmethoxyimino)-2-(2-tritylaminothiazol-4-yl)acetamido]-3-chloromethyl-3-cephem-4-carboxylate | 22.3 mmol, 23.4 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)C1=C(CS[C@H]2N1C(C2NC(\C(\C=2N=C(SC2)NC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=N/OCC(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)=O)=O)CCl | C60H48ClN5O7S2
reactant | m-chloroperbenzoic acid | 22.3 mmol, 4.8 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | methylene chloride | 500 ml | C(Cl)Cl | CH2Cl2
product | Benzhydryl 7-[(Z)-2-(benzhydryloxycarbonylmethoxyimino)-2-(2-tritylaminothiazol-4-yl)acetamido]-3-chloromethyl-3-cephem-4-carboxylate 1-oxide | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)CO\N=C(/C(=O)NC1[C@@H]2N(C(=C(CS2=O)CCl)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)\C=1N=C(SC1)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C60H48ClN5O8S2
